US07320986B2
5′-bromo-2′,3′-dihydrospiro[1,3-dioxolane-2,1′-indene]
A mixture of 5-bromo-1-indanone (13.0 g, 61.8 mmol), p-toluenesulfonic acid (23 mg, 0.12 mmol) and ethylene glycol (27.6 mL, 494.6 mmol) in benzene (140 mL) was refluxed for about 24 hours, using a Dean-Stark trap to remove water. The mixture was cooled, poured into excess 5% aqueous sodium bicarbonate and was extracted with toluene. The combined organic extracts were washed with brine, dried with MgSO4, filtered, and evaporated in vacuum. The residue was purified by flash column chromatography using dichloromethane as the mobile phase to give the above intermediate. MS (DCI/NH3): m/z 254, 256 (M)+.

reactant | 5-bromo-1-indanone | 61.8 mmol, 13.0 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | p-toluenesulfonic acid | 0.12 mmol, 23 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 494.6 mmol, 27.6 mL | C(CO)O | C2H6O2
reactant | NH3 | N | H3N
solvent | benzene | 140 mL | C1=CC=CC=C1 | C6H6
product | 5′-bromo-2′,3′-dihydrospiro[1,3-dioxolane-2,1′-indene] | BrC=1C=C2CCC3(C2=CC1)OCCO3 | C11H11BrO2
